* FILE: MMI_NOR2D.sp


* SPICE netlist for "MMI_NOR2D" (generated by MMI_SUE4.1.5)

.SUBCKT MMI_NOR2D in0 in1 out 
M_0 out in1 gnd gnd n W='3.68*1u' L=ln_min ad='arean(3.68,sdd)' 
+ as='arean(3.68,sdd)' pd='perin(3.68,sdd)' ps='perin(3.68,sdd)' 
M_1 out in0 gnd gnd n W='3.68*1u' L=ln_min ad='arean(3.68,sdd)' 
+ as='arean(3.68,sdd)' pd='perin(3.68,sdd)' ps='perin(3.68,sdd)' 
M_2 out in0 net_1 vdd p W='4.9*1u' L=lp_min ad='areap(4.9,sdd)' 
+ as='areap(4.9,sdd)' pd='perip(4.9,sdd)' ps='perip(4.9,sdd)' 
M_3 out in0 net_2 vdd p W='4.9*1u' L=lp_min ad='areap(4.9,sdd)' 
+ as='areap(4.9,sdd)' pd='perip(4.9,sdd)' ps='perip(4.9,sdd)' 
M_4 out in0 net_3 vdd p W='4.9*1u' L=lp_min ad='areap(4.9,sdd)' 
+ as='areap(4.9,sdd)' pd='perip(4.9,sdd)' ps='perip(4.9,sdd)' 
M_5 net_3 in1 vdd vdd p W='4.9*1u' L=lp_min ad='areap(4.9,sdd)' 
+ as='areap(4.9,sdd)' pd='perip(4.9,sdd)' ps='perip(4.9,sdd)' 
M_6 net_2 in1 vdd vdd p W='4.9*1u' L=lp_min ad='areap(4.9,sdd)' 
+ as='areap(4.9,sdd)' pd='perip(4.9,sdd)' ps='perip(4.9,sdd)' 
M_7 net_1 in1 vdd vdd p W='4.9*1u' L=lp_min ad='areap(4.9,sdd)' 
+ as='areap(4.9,sdd)' pd='perip(4.9,sdd)' ps='perip(4.9,sdd)' 
.ENDS	$ MMI_NOR2D

.GLOBAL gnd vdd

