* FILE: MMI_OA31B.sp


* SPICE netlist for "MMI_OA31B" (generated by MMI_SUE4.1.5)

.SUBCKT inverter1 in out WP=2 LP=lp_min WN=1 LN=ln_min
M_0 out in gnd gnd n W='WN*1u' L=LN ad='arean(WN,sdd)' as='arean(WN,sdd)' 
+ pd='perin(WN,sdd)' ps='perin(WN,sdd)' 
M_1 out in vdd vdd p W='WP*1u' L=LP ad='areap(WP,sdd)' as='areap(WP,sdd)' 
+ pd='perip(WP,sdd)' ps='perip(WP,sdd)' 
.ENDS	$ inverter1

.SUBCKT MMI_OA31B in0 in1 in2 in3 out 
Xinverter1 N1 out inverter1 WP=1.84 WN=.92
M_0 N1 in0 net_1 gnd n W='.92*1u' L=ln_min ad='arean(.92,sdd)' 
+ as='arean(.92,sdd)' pd='perin(.92,sdd)' ps='perin(.92,sdd)' 
M_1 net_1 in1 gnd gnd n W='.92*1u' L=ln_min ad='arean(.92,sdd)' 
+ as='arean(.92,sdd)' pd='perin(.92,sdd)' ps='perin(.92,sdd)' 
M_2 net_1 in2 gnd gnd n W='.92*1u' L=ln_min ad='arean(.92,sdd)' 
+ as='arean(.92,sdd)' pd='perin(.92,sdd)' ps='perin(.92,sdd)' 
M_3 net_1 in3 gnd gnd n W='.92*1u' L=ln_min ad='arean(.92,sdd)' 
+ as='arean(.92,sdd)' pd='perin(.92,sdd)' ps='perin(.92,sdd)' 
M_4 N1 in0 vdd vdd p W='.92*1u' L=lp_min ad='areap(.92,sdd)' 
+ as='areap(.92,sdd)' pd='perip(.92,sdd)' ps='perip(.92,sdd)' 
M_5 N1 in1 net_2 vdd p W='1.38*1u' L=lp_min ad='areap(1.38,sdd)' 
+ as='areap(1.38,sdd)' pd='perip(1.38,sdd)' ps='perip(1.38,sdd)' 
M_6 N1 in1 net_3 vdd p W='1.38*1u' L=lp_min ad='areap(1.38,sdd)' 
+ as='areap(1.38,sdd)' pd='perip(1.38,sdd)' ps='perip(1.38,sdd)' 
M_7 net_3 in2 net_4 vdd p W='1.38*1u' L=lp_min ad='areap(1.38,sdd)' 
+ as='areap(1.38,sdd)' pd='perip(1.38,sdd)' ps='perip(1.38,sdd)' 
M_8 net_2 in2 net_5 vdd p W='1.38*1u' L=lp_min ad='areap(1.38,sdd)' 
+ as='areap(1.38,sdd)' pd='perip(1.38,sdd)' ps='perip(1.38,sdd)' 
M_9 net_4 in3 vdd vdd p W='1.38*1u' L=lp_min ad='areap(1.38,sdd)' 
+ as='areap(1.38,sdd)' pd='perip(1.38,sdd)' ps='perip(1.38,sdd)' 
M_10 net_5 in3 vdd vdd p W='1.38*1u' L=lp_min ad='areap(1.38,sdd)' 
+ as='areap(1.38,sdd)' pd='perip(1.38,sdd)' ps='perip(1.38,sdd)' 
.ENDS	$ MMI_OA31B

.GLOBAL gnd vdd

